US05276154
Butyllithium (1.64M hexane solution, 7.54 ml, 12.4 mmol) was added to a THF (40 ml) solution of diisopropylamine (1.25 g, 12.4 mmol) at -78 ° C., and the mixture was stirred for 15 minutes. Thereto was added a THF (20 ml) solution of N-methoxy-N-methylacetamide (1.27 g, 12.3 mmol) at -78 ° C., and the resulting mixture was stirred at -78 ° C. for 15 minutes. To this mixture was added a THF (40 ml) solution of 2-cyclopropyl-4-(4-fluorophenyl)-3-formylquinoline (3.00 g, 10.3 mmol). The reaction mixture was stirred at -78 ° C. to room temperature over a period of 3 hours before quenching with water and extraction with diethyl ether. The ethereal organic layer was washed with saturated sodium chloride aq solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by column chromatography (hexane:ethyl acetate=2:1) to give N-methoxy-N-methyl-3 -{2-cyclopropyl-4-(4-fluorophenyl)quinoline-3-yl}-3-hydroxypropanamide (3.70 g, 91% yield).

reactant | Butyllithium | 12.4 mmol, 1.64M, 7.54 ml | C(CCC)[Li]
reactant | diisopropylamine | 12.4 mmol, 1.25 g | C(C)(C)NC(C)C | C6H15N
reactant | N-methoxy-N-methylacetamide | 12.3 mmol, 1.27 g | CON(C(C)=O)C | C4H9NO2
reactant | 2-cyclopropyl-4-(4-fluorophenyl)-3-formylquinoline | 10.3 mmol, 3.00 g | C1(CC1)C1=NC2=CC=CC=C2C(=C1C=O)C1=CC=C(C=C1)F | C19H14FNO
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | N-methoxy-N-methyl-3 -{2-cyclopropyl-4-(4-fluorophenyl)quinoline-3-yl}-3-hydroxypropanamide | 3.70 g, 91% yield | CON(C(CC(O)C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)=O)C | C23H23FN2O3
